US07514452B2
Using 4-hydroxyfluorobenzoic acid and 4-hydroxy-3-chlorobenzoic acid, reactions and treatments were carried out in the same manner as in Reference Example 80, thereby giving various benzoic acid derivatives.

reactant | 4-hydroxyfluorobenzoic acid | OC1=CC(=C(C(=O)O)C=C1)F | C7H5FO3
reactant | 4-hydroxy-3-chlorobenzoic acid | OC1=C(C=C(C(=O)O)C=C1)Cl | C7H5ClO3
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
